US07402595B2
6-chloro-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a mixture of 6-chloro-2-(4-methoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (2.50 g), methanol (10 ml) and tetrahydrofuran (20 ml) was added 8N aqueous sodium hydroxide solution (1 ml) and the mixture was stirred at room temperature for 12 hrs. The solvent was evaporated under reduced pressure and water was added. The mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was recrystallized from methanol to give the title compound (1.27 g, 52%).

reactant | 6-chloro-2-(4-methoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 2.50 g | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)CC1=CC=C(C=C1)C(=O)OC | C26H20ClNO5
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | 8N, 1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-chloro-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 1.27 g, 52% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)CC1=CC=C(C=C1)C(=O)O | C25H18ClNO5
